US08110687B2
To a solution of 7-[(2-aminopyridin-4-yl)oxy]-N-(3-tert-butylphenyl)-1,2,3,4-tetrahydronaphthalene-2-carboxamide (0.965 g, 2.32 mmol) in DCM (30 mL) was added 3-chloropropyl isocyanate (0.357 mL, 3.48 mmol). The reaction mixture was allowed to stir at rt for 64 hr. Additional 2-chloropropyl isocyanate (0.300 mL, 2.92 mmol) was added, and the reaction mixture was allowed to stir at rt for 24 h. The solvent was evaporated and the residue was purified by column chromatography to give N-(3-tert-butylphenyl)-7-{[2-({[(3-chloropropyl)amino]-carbonyl}amino)pyridin-4-yl]oxy}-1,2,3,4tetrahydronaphthalene-2-carboxamide (0.710 g; 1.33 mmol, 57%) as a white solid. LCMS: (FA) ES+536.6, ES−533.5.

reactant | 7-[(2-aminopyridin-4-yl)oxy]-N-(3-tert-butylphenyl)-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 2.32 mmol, 0.965 g | NC1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC1=CC(=CC=C1)C(C)(C)C | C26H29N3O2
reactant | 3-chloropropyl isocyanate | 3.48 mmol, 0.357 mL | ClCCCN=C=O | C4H6ClNO
reactant | 2-chloropropyl isocyanate | 2.92 mmol, 0.300 mL | ClC(CN=C=O)C | C4H6ClNO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(3-tert-butylphenyl)-7-{[2-({[(3-chloropropyl)amino]-carbonyl}amino)pyridin-4-yl]oxy}-1,2,3,4tetrahydronaphthalene-2-carboxamide | 1.33 mmol, 0.710 g, 57% | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)NC(=O)NCCCCl | C30H35ClN4O3
